US06927303B2
According to the similar procedure in Synthesis Example (14-4), by using 5-amino-2-cyclohexanecarbonyloxybenzoic acid (1.03 g, 3.95 mmole) which was prepared from Synthesis Example (16-2), DMF (15 ml), TEA (0.10 ml), tetrabutyl ammonium iodide (10 mg), and 2,3,5,6-tetrafluoro-4-trifluoromethylbenzyl bromide (1.01 ml, 5.92 mmole), 0.95 g (49.0% yield) of was obtained 2-cyclohexanecarbonyloxy-5-(2,3,5,6-tetrafluoro-4-trifluoromethylbenzylamino)benzoic acid as a white solid.

reactant | 5-amino-2-cyclohexanecarbonyloxybenzoic acid | 3.95 mmole, 1.03 g | NC=1C=CC(=C(C(=O)O)C1)OC(=O)C1CCCCC1 | C14H17NO4
reactant | 2,3,5,6-tetrafluoro-4-trifluoromethylbenzyl bromide | 5.92 mmole, 1.01 ml | FC1=C(CBr)C(=C(C(=C1F)C(F)(F)F)F)F | C8H2BrF7
catalyst | tetrabutyl ammonium iodide | 10 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 2-cyclohexanecarbonyloxy-5-(2,3,5,6-tetrafluoro-4-trifluoromethylbenzylamino)benzoic acid | 49.0% yield | C1(CCCCC1)C(=O)OC1=C(C(=O)O)C=C(C=C1)NCC1=C(C(=C(C(=C1F)F)C(F)(F)F)F)F | C22H18F7NO4
